US06727264B1
2-METHYL-N-{3-[1-({5-[1-METHYL-3-(TRIFLUOROMETHYL)-1H-PYRAZOL-5-YL]-2-THIENYL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure F and Scheme R using 5-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]-2-thiophenecarbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 491.0 (M+H)+.

reactant | 5-[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]-2-thiophenecarbaldehyde | CN1N=C(C=C1C1=CC=C(S1)C=O)C(F)(F)F | C10H7F3N2OS
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-{3-[1-({5-[1-METHYL-3-(TRIFLUOROMETHYL)-1H-PYRAZOL-5-YL]-2-THIENYL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC=1SC(=CC1)C1=CC(=NN1C)C(F)(F)F)C | C25H29F3N4OS
